US04835164
α-Phenoxymethyl-2-piperidinemethanol hydrochloride [1:1]
A solution of α-phenoxymethyl-2-pyridinemethanol hydrochloride (20.22 g, 0.08 mole) in 425 ml of methanol was hydrogenated for 2.5 hr in the presence of 1 g of platinum oxide at room temperature. TLC analysis (in 5% methanol-methylene chloride) showed that all the pyridine compound had been converted to the piperidine derivatives. Removal of methanol furnished an oil. The oil was dissolved in methylene chloride-hexane mixture and treated with ethereal hydrogen chloride. The resulting salt was triturated with acetone and recrystallized from methylenechloride-hexane-diethyl ether to give 5.28 g (25.5% of a white crystalline solid, m.p. 165°-171° C.

reactant | α-phenoxymethyl-2-pyridinemethanol hydrochloride | 0.08 mole, 20.22 g | Cl.O(C1=CC=CC=C1)CC(O)C1=NC=CC=C1
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 425 ml | CO | CH4O
solvent | methanol methylene chloride | CO.C(Cl)Cl
solvent | methylene chloride hexane | C(Cl)Cl.CCCCCC
catalyst | platinum oxide | 1 g | [Pt]=O
product | α-Phenoxymethyl-2-piperidinemethanol hydrochloride | 25.5% | Cl.O(C1=CC=CC=C1)CC(O)C1NCCCC1 | InChI=1S/C13H19NO2.ClH/c15-13(12-8-4-5-9-14-12)10-16-11-6-2-1-3-7-11;/h1-3,6-7,12-15H,4-5,8-10H2;1H
